*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002
*-- die chiplet6:  metal layers: 2


.subckt chiplet6
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_3000_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 8.912e-01ns 0.0  9.412e-01ns 8.9e-02  9.486e-01ns 8.9e-02  9.986e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 17.5919
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 3.17872e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 3.198e-01ns 0.0  3.698e-01ns 3.2e-02  4.117e-01ns 3.2e-02  4.617e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 30.344
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 4.27719e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 7.767e-01ns 0.0  8.267e-01ns 7.4e-02  8.538e-01ns 7.4e-02  9.038e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 15.725
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 3.7571e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 7.865e-01ns 0.0  8.365e-01ns 6.0e-02  8.627e-01ns 6.0e-02  9.127e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 19.5416
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 8.24007e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 4.697e-01ns 0.0  5.197e-01ns 3.5e-02  6.837e-01ns 3.5e-02  7.337e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 12.177
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 7.46312e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 6.026e-01ns 0.0  6.526e-01ns 2.2e-02  6.609e-01ns 2.2e-02  7.109e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 69.3294
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.06167e-13
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 2.883e-01ns 0.0  3.383e-01ns 5.0e-04  6.699e-01ns 5.0e-04  7.199e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 471.002
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.08094e-13
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 7.432e-01ns 0.0  7.932e-01ns 1.9e-02  9.010e-01ns 1.9e-02  9.510e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 30.1285
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.76006e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 4.302e-01ns 0.0  4.802e-01ns 2.7e-02  6.423e-01ns 2.7e-02  6.923e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 15.5841
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.17472e-11
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.705e-01ns 0.0  6.205e-01ns 9.4e-03  9.469e-01ns 9.4e-03  9.969e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 25.3076
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 4.45289e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 5.727e-01ns 0.0  6.227e-01ns 3.0e-02  7.864e-01ns 3.0e-02  8.364e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 14.2174
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.05209e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 2.601e-01ns 0.0  3.101e-01ns 3.6e-02  4.052e-01ns 3.6e-02  4.552e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 17.1113
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 8.46119e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 3.987e-01ns 0.0  4.487e-01ns 9.2e-03  8.484e-01ns 9.2e-03  8.984e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 21.7161
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 3.43766e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 8.044e-02ns 0.0  1.304e-01ns 2.8e-03  7.918e-01ns 2.8e-03  8.418e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 45.8343
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 9.1405e-14
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 5.413e-01ns 0.0  5.913e-01ns 4.1e-03  7.550e-01ns 4.1e-03  8.050e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 103.33
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 6.12576e-14
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 6.741e-01ns 0.0  7.241e-01ns 1.0e-01  7.489e-01ns 1.0e-01  7.989e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 12.0358
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.13565e-11
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 3.609e-01ns 0.0  4.109e-01ns 5.7e-02  4.730e-01ns 5.7e-02  5.230e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 14.0268
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 4.74492e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 4.933e-01ns 0.0  5.433e-01ns 1.2e-02  8.547e-01ns 1.2e-02  9.047e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 21.3102
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 4.52289e-12
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.662e-02ns 0.0  1.066e-01ns 7.7e-03  4.593e-01ns 7.7e-03  5.093e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 29.0233
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 6.39138e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 5.742e-01ns 0.0  6.242e-01ns 2.8e-02  7.873e-01ns 2.8e-02  8.373e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 15.1919
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 9.91918e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 1.356e-01ns 0.0  1.856e-01ns 1.4e-01  1.902e-01ns 1.4e-01  2.402e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 11.8813
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.50143e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 7.205e-01ns 0.0  7.705e-01ns 3.8e-02  8.886e-01ns 3.8e-02  9.386e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 13.9058
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 3.36342e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 8.561e-01ns 0.0  9.061e-01ns 8.5e-02  9.197e-01ns 8.5e-02  9.697e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 16.7104
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.05946e-11
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 5.420e-01ns 0.0  5.920e-01ns 2.0e-02  7.573e-01ns 2.0e-02  8.073e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 21.0108
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 5.11326e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 2.274e-01ns 0.0  2.774e-01ns 4.5e-03  6.877e-01ns 4.5e-03  7.377e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 43.4021
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 3.19358e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 3.335e-01ns 0.0  3.835e-01ns 3.3e-02  4.340e-01ns 3.3e-02  4.840e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 27.135
cs_0_0_0_0 ns_1_0_0_0_ci 0 4.88598e-12
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 2.093e-01ns 0.0  2.593e-01ns 2.1e-03  6.704e-01ns 2.1e-03  7.204e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 90.8783
cs_0_0_0_1 ns_1_0_2000_0_ci 0 3.78883e-13
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 3.483e-01ns 0.0  3.983e-01ns 2.1e-02  5.364e-01ns 2.1e-02  5.864e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 22.8207
cs_0_0_0_2 ns_1_0_4000_0_ci 0 7.2149e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 4.808e-01ns 0.0  5.308e-01ns 4.5e-02  6.352e-01ns 4.5e-02  6.852e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 13.0563
cs_0_0_0_3 ns_1_0_6000_0_ci 0 7.16511e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 6.213e-01ns 0.0  6.713e-01ns 9.8e-03  7.851e-01ns 9.8e-03  8.351e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 56.1745
cs_0_0_0_4 ns_1_0_8000_0_ci 0 2.21903e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 1.787e-01ns 0.0  2.287e-01ns 3.6e-02  2.716e-01ns 3.6e-02  3.216e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 26.6924
cs_0_0_0_5 ns_1_0_0_2000_ci 0 4.68515e-12
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 3.127e-01ns 0.0  3.627e-01ns 1.4e-02  7.779e-01ns 1.4e-02  8.279e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 14.2059
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 3.95036e-12
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 8.963e-01ns 0.0  9.463e-01ns 2.0e-02  9.476e-01ns 2.0e-02  9.976e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 86.228
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.00768e-12
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 5.863e-01ns 0.0  6.363e-01ns 1.3e-01  6.387e-01ns 1.3e-01  6.887e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 12.9347
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 1.294e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 7.180e-01ns 0.0  7.680e-01ns 1.1e-01  7.704e-01ns 1.1e-01  8.204e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 15.5846
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 9.3496e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 2.781e-01ns 0.0  3.281e-01ns 1.1e-03  7.418e-01ns 1.1e-03  7.918e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 169.459
cs_0_0_0_10 ns_1_0_0_4000_ci 0 2.85583e-13
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 8.637e-01ns 0.0  9.137e-01ns 4.3e-02  9.434e-01ns 4.3e-02  9.934e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 26.0739
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 2.98379e-12
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 9.856e-02ns 0.0  1.486e-01ns 1.7e-02  4.091e-01ns 1.7e-02  4.591e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 17.0906
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 1.34066e-12
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 6.205e-01ns 0.0  6.705e-01ns 1.3e-01  6.837e-01ns 1.3e-01  7.337e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 10.9839
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 4.8674e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 7.614e-01ns 0.0  8.114e-01ns 9.0e-02  8.398e-01ns 9.0e-02  8.898e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 12.787
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 4.36683e-12
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 8.908e-01ns 0.0  9.408e-01ns 1.1e-01  9.440e-01ns 1.1e-01  9.940e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 15.3117
cs_0_0_0_15 ns_1_0_0_6000_ci 0 5.57289e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 1.289e-01ns 0.0  1.789e-01ns 8.1e-03  5.649e-01ns 8.1e-03  6.149e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 25.3947
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 6.04568e-13
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 2.603e-01ns 0.0  3.103e-01ns 1.1e-01  3.179e-01ns 1.1e-01  3.679e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 13.8758
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 3.2225e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 8.496e-01ns 0.0  8.996e-01ns 6.4e-02  9.327e-01ns 6.4e-02  9.827e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 16.9569
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 4.44949e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 4.076e-01ns 0.0  4.576e-01ns 2.0e-02  6.109e-01ns 2.0e-02  6.609e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 21.6979
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 3.54554e-12
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 8.913e-02ns 0.0  1.391e-01ns 7.2e-03  9.198e-01ns 7.2e-03  9.698e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 15.0524
cs_0_0_0_20 ns_1_0_0_8000_ci 0 7.14487e-12
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 6.772e-01ns 0.0  7.272e-01ns 3.5e-03  8.637e-01ns 3.5e-03  9.137e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 136.501
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 1.00209e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 8.129e-01ns 0.0  8.629e-01ns 1.1e-01  8.855e-01ns 1.1e-01  9.355e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 11.6581
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 1.43157e-11
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 4.991e-01ns 0.0  5.491e-01ns 1.5e-02  6.580e-01ns 1.5e-02  7.080e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 36.7554
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 5.35725e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 1.832e-01ns 0.0  2.332e-01ns 6.0e-03  8.922e-01ns 6.0e-03  9.422e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 21.2794
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 1.29345e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val168'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val169'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val170'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val171'
rd_add0 nd0 0 'esr47'
rd_add1 nd1 0 'esr48'
rd_add2 nd2 0 'esr49'
rd_add3 nd3 0 'esr50'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet6
